US04279918
1-allyl-2-(4-chlorobenzyl)pyrrolidine
Boil 5 g of 2-(4-chlorobenzyl)pyrrolidine, 3.53 g of anhydrous potassium carbonate, 3.4 g of allyl bromide and 50 ml of ethyl methyl ketone under reflux for 1 hour. Evaporate off the solvent. Take up the residue with 50 ml of water and extract 3 times with, in each case, 30 ml of diethyl ether. Combine the ether phases and dry them over sodium sulfate. Distil off the solvent from the combined ether extract and distil the resulting residue under a vacuum to obtain 5.12 g (85% of theory) of the title compound (b.p. 84° to 87° at 0.005 mm of Hg). m.p. of the picrate (from ethanol): 115° to 117°.

reactant | 2-(4-chlorobenzyl)pyrrolidine | 5 g | ClC1=CC=C(CC2NCCC2)C=C1 | C11H14ClN
reactant | potassium carbonate | 3.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 3.4 g | C(C=C)Br | C3H5Br
solvent | ethyl methyl ketone | 50 ml | CC(=O)CC | C4H8O
product | 1-allyl-2-(4-chlorobenzyl)pyrrolidine | C(C=C)N1C(CCC1)CC1=CC=C(C=C1)Cl | C14H18ClN
